US07410963B2
3-(1-Methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzaldehyde
To 5 mL of degazed DMF were added 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one (200 mg, 0.52 mmol), 3-formylbenzene boronic acid (160 mg, 1.32 mmoles), tripotassium phosphate (300 mg, 1.42 mmol), Pd(PPh3)4 (30 mg, 0.03 mmoles). The mixture was stirred for 16 hours at 120° C. under nitrogen atmosphere. The working solution was diluted ten times with water and extracted three times with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated until dryness. The residue was chromatographied: eluant: CH2Cl2/Et2O: 1/1. The title compound was crystallised from ether/pentane to afford the title compound (118 mg): white solid, (yield=25%).

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 0.52 mmol, 200 mg | ClC=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C16H13ClN2O
reactant | 3-formylbenzene boronic acid | 1.32 mmoles, 160 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | tripotassium phosphate | 1.42 mmol, 300 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmoles, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-Methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzaldehyde | 118 mg, yield=25% | CN1C(CN=C(C2=C1C=CC(=C2)C2=CC=CC=C2)C=2C=C(C=O)C=CC2)=O | C23H18N2O2
